US07151109B2
Preparation of N-(cyclopropylmethyl)-N-ethylpyrazolo[1,5-a]pyridin-3-amine
To a suspension of LiAlH4 (0.70 g, 18.5 mmol) in THF (2.0 mL) was added a solution of N-ethyl-N-pyrazolo[1,5-a]pyridin-3-ylcyclopropanecarboxamide (0.77 g, 3.36 mmol) in THF (5.0 mL) at room temperature and stirred for 16 h. H2O (0.70 mL), 15% NaOH (0.70 mL) and H2O (2.1 mL) were added sequentially. Celite was added and filtered. The filtrate was concentrated in vacuo to dryness and the residue was subjected to column chromatography (E:H=1:4) to give 0.30 g (42%) of yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 8.35 (d, J=7.0 Hz, 1H), 7.82 (s, 1H), 7.56 (d, J=9.0 Hz, 1H), 7.02–6.98 (m, 1H), 6.70–6.66 (m, 1H), 3.21 (q, J=7.1 Hz, 2H), 2.92 (d, J=6.6 Hz, 2H), 1.06 (t, J=7.1 Hz, 3H), 0.92–0.88 (m, 1H), 0.46–0.41 (m, 2H), 0.11–0.08 (m, 2H); MS (EI) m/z 216.19 (M++H).

reactant | LiAlH4 | 18.5 mmol, 0.70 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-ethyl-N-pyrazolo[1,5-a]pyridin-3-ylcyclopropanecarboxamide | 3.36 mmol, 0.77 g | C(C)N(C(=O)C1CC1)C=1C=NN2C1C=CC=C2 | C13H15N3O
reactant | H2O | 0.70 mL | O | H2O
reactant | NaOH | 0.70 mL | [OH-].[Na+]
reactant | H2O | 2.1 mL | O | H2O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | N-(cyclopropylmethyl)-N-ethylpyrazolo[1,5-a]pyridin-3-amine | 0.30 g, 42% | C1(CC1)CN(C=1C=NN2C1C=CC=C2)CC | C13H17N3
